US07902252B2
2.70. Synthesis of methyl 4-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
Methyl 4-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.103 g, 0.32 mmol) was combined with zinc cyanide (0.046 g, 0.39 mmol) and dissolved in dimethyl acetamide (3 mL). Then the solution was evacuated and back-flushed with N2 four times and sparged with N2 for an additional 5-10 min. Tetrakis(triphenylphosphine)palladium(0) (0.091 g, 0.08 mmol) was added and the reaction placed in a preheated (85° C.) heating block and stirred for 2 hour. The reaction was then cooled to room temperature and diluted with aqueous H2O (40 mL) and extracted three times with ethyl acetate. The organic layer was washed once with brine, then dried over Na2SO4. Purification by column chromatography (Isco CombiFlash) eluting with a gradient of 0-40% EtOAc/heptane afforded the title compound. 0.021 g. LCMS-MS (ESI+) 289.2 (M+Na).

reactant | Methyl 4-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.32 mmol, 0.103 g | BrC=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)OC | C15H14BrNO2
reactant | dimethyl acetamide | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | H2O | 40 mL | O | H2O
catalyst | zinc cyanide | 0.39 mmol, 0.046 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 0.091 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C(#N)C=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)OC | C16H14N2O2
